US04507478
Following the procedure of Example 1, a reaction mixture was prepared from trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline and O-methylisourea hydrogen sulfate in 20 ml. of anhydrous ethanol. The reaction mixture was heated to reflux temperature overnight and was then evaporated to dryness. The resulting residue was dissolved in chloroform. The chloroform solution was chromatographed over florisil using chloroform containing increasing amounts (0-15%) of methanol as the eluant. Fraction 5 was shown by tlc to contain trans-(±)-2-methoxy-6-n-propyl-5,5a,6,7,8,9,9a,10-octahydropyrimido[4,5-g]quinoline formed in the above reaction. The solvent was removed in vacuo leaving a residual yellow oil. The yellow oil was dissolved in methanol and the methanolic solution saturated with gaseous hydrogen chloride. Ethyl acetate was added to the hot methanol solution to the point of incipient precipitation. Upon cooling, yellow crystals of trans-(±)-2-methoxy-6-n-propyl-5,5a,6,7,8,9,9a,10octahydropyrimido[4,5-g]quinoline dihydrochloride formed which were collected by filtration. The product had a molecular ion at 261.

reactant | trans-(±)-1-n-propyl-6-oxo-7-dimethylaminomethylenedecahydroquinoline | C(CC)N1CCC[C@@H]2CC(C(C[C@@H]12)=CN(C)C)=O | C15H26N2O
reactant | O-methylisourea hydrogen sulfate | S(=O)(=O)(O)O.COC(N)=N
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-(±)-2-methoxy-6-n-propyl-5,5a,6,7,8,9,9a,10octahydropyrimido[4,5-g]quinoline dihydrochloride | Cl.Cl.COC=1N=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1 | InChI=1S/C15H23N3O.2ClH/c1-3-6-18-7-4-5-11-8-13-12(9-14(11)18)10-16-15(17-13)19-2;;/h10-11,14H,3-9H2,1-2H3;2*1H/t11-,14-;;/m0../s1
